US07253158B2
4-(2-Hydroxymethyl-phenyl)-butyric acid methyl ester
To an ice cooled solution of methyl 3-butenoate (2.0 g, 20 mmol) in THF (20 ml) 9-borabicyclo(3,3,1)nonane (49 ml, 0.5M in tetrahydrofurane) was added within 1 hour. After additional stirring for 4.5 hours potassium carbonate (7.5 g, 54 mmol), 2-bromobenzyl alcohol (3.4 g, 18.2 mmol), dimethylformamide (60 ml) and palladium (dppf)-dichloride (0.665 g, 0.91 mmol) were added and the mixture was stirred at 60° C. overnight. After cooling the mixture was filtered over Celite and evaporated. The residue was purified by column chromatography (eluent hexane/ethyl acetate: 4:1 gradually to 1:1) to yield 2.46 g (65%) of product.

reactant | methyl 3-butenoate | 20 mmol, 2.0 g | C(CC=C)(=O)OC | C5H8O2
reactant | potassium carbonate | 54 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromobenzyl alcohol | 18.2 mmol, 3.4 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | THF | 0.5M, 20 ml | C1CCOC1 | C4H8O
product | 4-(2-Hydroxymethyl-phenyl)-butyric acid methyl ester | 2.46 g, 65% | COC(CCCC1=C(C=CC=C1)CO)=O | C12H16O3
